Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI in H&P by Dr. ___ ___:
___ with hx of DM, htn, HLD, DM2 presenting with syncope. Pt
describes dry cough several weeks ago, for which he received
"pills" from his PCP. Review of OMR medications fill history
reveals that he received oseltamivir on ___. Cough
resolved, but then recurred, has now been present x1 week,
nonproductive. He describes severe chills with rigors the night
of ___, woke up feeling better on ___, had coffee in the
morning. At around noon his wife suggested that he eat 
something.
He went into the kitchen, began chopping tomatoes, then felt
globally unwell, which he describes not as true weakness but
generalized sense of unwellness. He walked into the next room,
sat in the chair, and does not recall falling from the chair. He
denies preceding chest pain, SOB, palpitations, abdominal pain,
and denies bowel/bladder incontinence. He believes that his LOC
lasted about 2 minutes; his wife was in the kitchen, came
immediately into the next room - "She thought I had died." He
denies post-syncopal confusion. He does state that he had an
episode of syncope 8 months prior, similar events, woke up
immediately without deficits, and did not seek care for this
event.

In the ___ ED:
VS 98.7, 60, 126/70, 96% RA
Exam notable for:
"Gen: no acute distress
HEENT: C-collar in place; mild cervical tenderness to palpation
Lungs: CTAB
Cardiac: RRR
Abd: S/NT/ND
Ext: WWP, no edema
Neuro: CN II-XII intact, no pronator drift, sensation intact to
light touch diffusely, str ___ in BUE, str ___ in BLE"
Labs notable for WBC 6.6, Hb 12.0, Plt 155, INR 1.2, LFTs WNL,
BUN 21, Cr 1.7, TnT<0.01, lactate 2.2, flu negative, UA negative

Imaging: 
CT head and c-spine without acute findings
CXR with RLL opacity concerning for pneumonia

Received:
Ceftriaxone
Azithromycin 
IVF

On arrival to the floor, pt confirms above history in detail.
Endorses ongoing dry cough, denies chest pain, SOB. He did check
his temperature at home, and found it to be 100.0.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI"
 
Past Medical History:
DM2
HTN
HLD
Cervical spondylosis
Melanoma s/p excision x 3 and skin graft on back ___ in ___

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this 
hospitalization/illness
 
Physical Exam:
ADMISSION EXAM:
VS: ___ ___ Temp: 98.6 PO BP: 159/69 R Lying HR: 65 RR: 18
O2 sat: 96% O2 delivery: RA 
GEN: delightful elderly male lying in bed, alert and 
interactive,
comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles posteriorly
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel
sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII intact,
strength ___ in UE and ___ bilaterally
PSYCH: normal mood and affect

DISCHARGE EXAM:
VITALS: ___ ___ Temp: 98.5 PO BP: 153/72 L HR: 73 RR: 18 
O2 sat: 93% O2 delivery: Ra 
___ 0840 BP: 150/68 R Lying HR: 68 Dyspnea: 0 RASS: 0 Pain 
Score: ___ 
___ 0842 BP: 136/72 R Sitting HR: 79 
___ 0844 BP: 135/71 R Standing HR: 85 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: MMM, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
___ 02:40PM BLOOD WBC-6.6 RBC-3.68* Hgb-12.0* Hct-35.2* 
MCV-96 MCH-32.6* MCHC-34.1 RDW-12.5 RDWSD-42.9 Plt ___
___ 02:40PM BLOOD Neuts-67.8 Lymphs-12.7* Monos-17.4* 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-4.45 AbsLymp-0.83* 
AbsMono-1.14* AbsEos-0.10 AbsBaso-0.02
___ 02:40PM BLOOD Glucose-110* UreaN-21* Creat-1.7* Na-143 
K-4.0 Cl-106 HCO3-22 AnGap-15
___ 02:40PM BLOOD Albumin-4.1 Calcium-8.9 Phos-2.3* Mg-1.6
___ 02:40PM BLOOD ALT-9 AST-14 CK(CPK)-67 AlkPhos-97 
TotBili-1.0
___ 02:40PM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD TSH-2.0
___ 02:44PM BLOOD Lactate-2.2*

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-6.2 RBC-3.67* Hgb-11.7* Hct-34.7* 
MCV-95 MCH-31.9 MCHC-33.7 RDW-12.5 RDWSD-43.0 Plt ___
___ 07:20AM BLOOD Glucose-112* UreaN-20 Creat-1.5* Na-143 
K-3.5 Cl-106 HCO3-25 AnGap-12
___ 07:20AM BLOOD Calcium-8.5 Phos-2.4* Mg-1.5*

MICRO:
UCx  - pending at the time of discharge
BCx - pending at the time of discharge

IMAGING:
CXR PA/Lat (___):
IMPRESSION:  
Right lower lobe opacity compatible with pneumonia. 

CT head (___):
IMPRESSION:  
No acute intracranial process. 

CT-spine (___):
IMPRESSION:  
No cervical spine fracture or malalignment.  Right-sided thyroid 
nodules within one measuring up to 2.3 cm.  Follow-up thyroid 
ultrasound is recommended on a nonurgent basis. 
  
RECOMMENDATION(S): 
Thyroid nodule.  Ultrasound follow up recommended. 
___ College of Radiology guidelines recommend further 
evaluation for 
incidental thyroid nodules of 1.0 cm or larger in patients under 
age ___ or 1.5 cm in patients age ___ or ___, or with suspicious 
findings. 
Suspicious findings include: Abnormal lymph nodes (those 
displaying 
enlargement, calcification, cystic components and/or increased 
enhancement) or invasion of local tissues by the thyroid nodule. 


EKG: NSR at 60 bpm, normal axis, 1st degree AVB, QTc 394, TW
flattening in aVL, no ST segment changes, no pathologic Q waves,
several apparent pacer spikes are artifact, pt does not have 
PPM.
No significant change compared to prior.

 
Brief Hospital Course:
SUMMARY:
___ with hx of DM, htn, HLD, DM2 presenting with syncope, found 
to have RLL pneumonia.

# Syncope:
# CAP
Pt endorsed cough/chills and was found to have RLL infiltrate. 
This was in the setting of recent oseltamivir course. Suspect 
syncope was ___ orthostasis in setting of CAP. No concerning 
features on EKG. No events on telemetry. The morning after 
admission, orthostatic vitals were normal. In the absence of 
leukocytosis or neutrophilia, it is possible that constellation 
of symptoms reflect a new viral process, although infiltrate may 
support bacterial pneumonia. CURB65was 2 based on age and 
BUN>___. He was not hypoxic, tachypneic, and appeared well on 
admission. Influenza negative in ED. He was started on 
levofloxacin, anticipating a ___
In setting of above process, likely prerenal. Unclear baseline, 
Cr was 1.5 on ___, now 1.7. Received IVF in ED and 
afterwards Cr improved to 1.5.

# Hypertension:
Held home amlodipine, olmesartan, and hctz in setting of 
pneumonia and syncope. His home metoprolol was continued with 
hold parameters. On discharge, his home amlodipine was resumed. 
His HCTZ and olmesartan were held (given normotension) with 
plans for the patient to follow up with his primary care doctor 
within ___ few days to discuss resumption.

# HLD: 
Continued home atorvastatin.

# DM2:
Held metformin (resumed on discharge). Insulin sliding scale 
used to control blood glucose.

# GERD: Nexium was held inpatient as it is nonformulary.

# BPH: 
Continued home tamsulosin.

# Thyroid nodules
Incidentally discovered on CT chest. TSH was wnl (2) during this 
hospital stay. He should have an outpatient thyroid ultrasound 
to further characterize these lesions.

TRANSITIONAL ISSUES:
[ ] Non-urgent thyroid ultrasound recommended to evaluate 
thyroid nodules
[ ] Anti-hypertensives (olmesartan and HCTZ) were held in the 
setting of pneumonia and normotension off these agents. Pt 
instructed to follow up with outpatient providers and resume 
these when instructed to do so.
[ ] Home lorazepam was recommended to be discontinued due to 
concern for delirium in the elderly; was given a prescription 
for melatonin to use for insomnia

>30 minutes spent on complex discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. Nexium 20 mg Other DAILY 
3. Aspirin 81 mg PO DAILY 
4. amLODIPine 2.5 mg PO DAILY 
5. olmesartan 40 mg oral DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. LORazepam 0.5 mg PO QHS:PRN insomnia 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. MetFORMIN (Glucophage) 500 mg PO BID 
10. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q48H pneumonia 
End date: ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth ONCE Disp #*1 
Tablet Refills:*0 
2.  melatonin 1 mg oral QHS:PRN 
RX *melatonin 1 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  amLODIPine 2.5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Metoprolol Tartrate 25 mg PO BID  
8.  Nexium 20 mg Other DAILY  
9.  Tamsulosin 0.4 mg PO QHS  
10. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until your primary 
care doctor tells you to restart it.
11. HELD- olmesartan 40 mg oral DAILY  This medication was held. 
Do not restart olmesartan until your primary care doctor 
instructs you to resume it

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community-acquired pneumonia
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital after having an episode of 
syncope (losing consciousness). You were found to have 
pneumonia. Most likely the syncope was caused by the pneumonia. 
Your EKG, vital signs, exam, and telemetry did not indicate any 
problems with your heart that lead to this episode. You should 
continue to take the levofloxacin (antibiotic) as directed to 
treat the pneumonia. Please call to make an appointment with 
your primary care doctor in the next ___ weeks to follow up. 
Best wishes for your continued healing.
Take care,
Your ___ Care Team
 
Followup Instructions:
___